US04906652
30 g of Z-1-(2-chlorophenyl)-2-phenyl-3-bromoprop-1-ene were refluxed with 23 of 3-chloroperoxybenzoic acid in 500 ml of chloroform. When the reaction was complete, the chloroform phase was washed acid-free with aqueous sodium bicarbonate solution and water, dried over sodium sulfate and evaporated down under reduced pressure. The residue gave 41.3 g (70.2%) of 2-bromomethyl-2-phenyl--(2-chlorophenyl)-oxirane, which was then further processed with triazole according to the Example below. II. Preparation of the end products

reactant | Z-1-(2-chlorophenyl)-2-phenyl-3-bromoprop-1-ene | 30 g | ClC1=C(C=CC=C1)\C=C(/CBr)\C1=CC=CC=C1 | C15H12BrCl
reactant | 3-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromomethyl-2-phenyl--(2-chlorophenyl)-oxirane | 41.3 g, 70.2% | BrCC1(OC1C1=C(C=CC=C1)Cl)C1=CC=CC=C1 | C15H12BrClO
